US04788130
3.00 Grams of 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-phenyl-1H-inden-1-one oxime was dissolved in 55 ml of glacial acetic acid, and this solution was subjected to catalytic hydrogenation in the presence of 0.3 g of platinum oxide at room temperature under 4 atmospheric hydrogen gas pressude. The hydrogenation was terminated at the point when the stoichiometric amount of hydrogen was absorbed. The catalyst was removed by filtration and the filtrate thus obtained was concentrated. The residue thus obtained was dissolved in water and the pH of this solution was adjusted to about pH 8 by adding an aqueous solution of sodium bicarbonate, then extracted with 200 ml of chloroform. The chloroform extract was washed with water, dried with anhydrous magnesium sulfate, then concentrated under a reduced pressure. Recrystallized from ethanol to obtain 0.24 g of 1-amino-2,3-dihydro-4,6-dimethyl-7-hydroxy-2-phenyl-1H-indene. Colorless needle-like crystals. Melting point: 135°-136° C.

reactant | 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-phenyl-1H-inden-1-one oxime | CC1=C2CC(C(C2=C(C(=C1)C)O)=NO)C1=CC=CC=C1 | C17H17NO2
reactant | hydrogen | [H][H] | H2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | platinum oxide | 0.3 g | [Pt]=O
product | 1-amino-2,3-dihydro-4,6-dimethyl-7-hydroxy-2-phenyl-1H-indene | 0.24 g | NC1C(CC2=C(C=C(C(=C12)O)C)C)C1=CC=CC=C1 | C17H19NO
